US07790898B2
[3-hydroxy-3-(3-methoxyphenyl)-piperidine-1-yl]-(4-methyl-3-nitrophenyl)-methanone
The compound of Example 30 was prepared according to the general preparation protocol A from 4-methyl-3-nitrobenzoyl chloride and 3-(3-methoxy-phenyl)-piperidine-3-ol.

reactant | 4-methyl-3-nitrobenzoyl chloride | CC1=C(C=C(C(=O)Cl)C=C1)[N+](=O)[O-] | C8H6ClNO3
reactant | 3-(3-methoxy-phenyl)-piperidine-3-ol | COC=1C=C(C=CC1)C1(CNCCC1)O | C12H17NO2
product | [3-hydroxy-3-(3-methoxyphenyl)-piperidine-1-yl]-(4-methyl-3-nitrophenyl)-methanone | OC1(CN(CCC1)C(=O)C1=CC(=C(C=C1)C)[N+](=O)[O-])C1=CC(=CC=C1)OC | C20H22N2O5
